US04734420
Synthesis of Nα -pyro-L-glutamyl-S-acetyl-penicillamine t-butyl ester
A solution of 20 mmoles of pyro-L-glutamic acid and 20 mmoles S-acetyl-penicillamine t-butyl ester toluene sulfonic acid, neutrallized with N-ethyl morpholine, in dichloromethane: DMF (4:1) is cooled in an ice bath with stirring. A solution of 20 mmoles of dicyclohexylcarbodiimide in dichloromethane is added to the above reaction mixture. The reaction mixture is stirred in an ice water bath for 1 hour and then at room temperature overnight. Dicyclohexylurea is removed by filtration and the product is washed in ethyl acetate. Solvents of the combined filtrates are removed under reduced pressure with a rotary evaporator at 40° C. Ethyl acetate is added to the residue and the organic solution is washed until neutral. The organic phase is dried over anhydrous MgSO4, filtered and then the solvent is removed with a rotary evaporator. The material is crystallized from isopropanol and ether, yielding the named product.

reactant | L-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | S-acetyl-penicillamine t-butyl ester toluene sulfonic acid | 20 mmoles | C=1(C(=CC=CC1)S(=O)(=O)O)C.C(C)(C)(C)OC([C@@H](N)C(C)(C)SC(C)=O)=O
reactant | N-ethyl morpholine | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexylcarbodiimide | 20 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane DMF | ClCCl.CN(C)C=O
solvent | dichloromethane | ClCCl | CH2Cl2
product | L-glutamyl-S-acetyl-penicillamine t-butyl ester | C(C)(C)(C)OC([C@@H](NC([C@@H](N)CCC(O)=O)=O)C(C)(C)SC(C)=O)=O | C16H28N2O6S
